US06855722B2
c) 3-[5-(3-[1,8]Naphthyridin-2-yl-propyl)-indol-1-yl]-propionic acid ethyl ester
To a solution of 2-[3-(1H-indol-5-yl)-propyl]-[1,8]naphthyridine (0.180 g, 0.627 mmol) in DMF (2 mL) was added sodium hydride (24.0 mg. 1.00 mmol) at 0° C. The reaction mixture was warmed to room temperature and stirred for 2 h. After cooling to 0° C., 3-chloro-propionic acid ethyl ester (85.0 mg, 0.63 mmol) was added and stirred overnight at room temperature. Ice water was added and the resulting mixture was extracted with methylene chloride. The combined organic layers were washed with water and brine, and dried over Na2SO4. Chromatography of the crude product on silica gel (methylene chloride/methanol, 95:5) gave the title product (0.11 g, 45% yield). 1H NMR (CDCl3) δ 9.08 (d, 1H), 8.13 (d, 1H), 8.08 (d, 1H), 7.30-7.50 (m, 4H), 7.10 (m, 2M), 6.40 (dd, 1H), 4.40 (t, 2H), 4.10 (m, 2H), 3.10 (t, 2H), 2.80 (m, 4H), 2.25 (m, 2H), 1.20 (q, 3H).

reactant | 2-[3-(1H-indol-5-yl)-propyl]-[1,8]naphthyridine | 0.627 mmol, 0.180 g | N1C=CC2=CC(=CC=C12)CCCC1=NC2=NC=CC=C2C=C1 | C19H17N3
reactant | sodium hydride | 1.00 mmol, 24.0 mg | [H-].[Na+]
reactant | 3-chloro-propionic acid ethyl ester | 0.63 mmol, 85.0 mg | C(C)OC(CCCl)=O | C5H9ClO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-[5-(3-[1,8]Naphthyridin-2-yl-propyl)-indol-1-yl]-propionic acid ethyl ester | 0.11 g, 45% yield | C(C)OC(CCN1C=CC2=CC(=CC=C12)CCCC1=NC2=NC=CC=C2C=C1)=O | C24H25N3O2
